US07964608B2
1-Cyclopentyl-7-methoxy-3-(5-methyl-2-trifluoromethyl-furan-3-yl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (25 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 3-isocyanato-5-methyl-2-trifluoromethyl-furan (0.5 mmol) following general procedure C. LCMS: m/z 460 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 3-isocyanato-5-methyl-2-trifluoromethyl-furan | 0.5 mmol | N(=C=O)C1=C(OC(=C1)C)C(F)(F)F | C7H4F3NO2
product | 1-Cyclopentyl-7-methoxy-3-(5-methyl-2-trifluoromethyl-furan-3-yl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 25 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C2=C(OC(=C2)C)C(F)(F)F)=O | C23H20F3N3O4
